US09315462B2
Step 1 and 2: Synthesis of 5-(6-hydroxyquinolin-2-yl)thiophene-2-carbonitrile
Followed the two step synthesis shown in Scheme 1 starting with 2-chloro-6-methoxyquinoline and 5-cyanothiophen-2-ylboronic acid, with minor variations: the base used in step 1 was sodium carbonate and the solvent was DME (dimethoxyethane)/water. In step 2, after quenching w/ ice water, a standard ethyl acetate extraction was preformed followed by purification by prep-TLC (PE:EA=1:1).

reactant | 2-chloro-6-methoxyquinoline | ClC1=NC2=CC=C(C=C2C=C1)OC | C10H8ClNO
reactant | 5-cyanothiophen-2-ylboronic acid | C(#N)C1=CC=C(S1)B(O)O | C5H4BNO2S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | C(OC)COC | C4H10O2
product | 5-(6-hydroxyquinolin-2-yl)thiophene-2-carbonitrile | OC=1C=C2C=CC(=NC2=CC1)C1=CC=C(S1)C#N | C14H8N2OS
